* BFQ149 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT89 DIE MODEL : BFQ32
* 1: COLLECTOR; 2: BASE; 3: EMITTER
.SUBCKT BFQ149 1 2 3
Q1 6 5 7 7 BFQ32
* SOT89 parasitic model
               Lb  4 5 1.2n 
               Le  7 8 1.2n
               L1  2 4 1n
               L2  1 6 .01n
               L3  3 8 1n
              Ccb  4 6 150f
              Cbe  4 8 16f
*
* PHILIPS SEMICONDUCTORS                                        Version:    2.0
* Filename: BFQ32.PRM                                           Date: June 1992
*
.MODEL  BFQ32   NPN
+              IS = 1.04007E-014
+              BF = 1.13265E+002
+              NF = 1.01216E+000
+             VAF = 2.36312E+001
+             IKF = 5.05043E-001
+             ISE = 8.71284E-014
+              NE = 1.57330E+000
+              BR = 2.81693E+001
+              NR = 1.00389E+000
+             VAR = 1.41436E+000
+             IKR = 4.16942E-003
+             ISC = 1.04425E-011
+              NC = 1.66992E+000
+              RB = 1.00000E+000
+             IRB = 1.00000E-006
+             RBM = 1.00000E+000
+              RE = 3.00000E-001
+              RC = 2.42000E+000
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 3.95446E-012
+             VJE = 6.00000E-001
+             MJE = 4.48668E-001
+              TF = 3.00000E-012
+             XTF = 1.86871E+001
+             VTF = 8.34301E+000
+             ITF = 2.22481E-001
+             CJC = 3.39901E-012
+             VJC = 4.88139E-001
+             MJC = 2.77486E-001
.ENDS

